US09290511B2
Methyl bromoacetate (15 μL, 0.158 mmol) was added dropwise to a stirred suspension of N—[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]cyclobutanamine (50 mg, 0.132 mmol) and cesium carbonate (51 mg, 0.158 mmol) in dry DMF (4 mL) at room temperature. The reaction was allowed to stir for 2 h, then water and ethyl acetate were added and the organic layer separated. The aqueous layer was further extracted with ethyl acetate (×3). The organic layers were combined, washed with water, dried by passage through a hydrophobic frit and concentrated in vacuo to give methyl 2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]acetate as a colourless oil (37 mg). LCMS RT=3.20. M+1=451.

reactant | Methyl bromoacetate | 0.158 mmol, 15 μL | BrCC(=O)OC | C3H5BrO2
reactant | N—[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]cyclobutanamine | 0.132 mmol, 50 mg | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)CNC2CCC2 | C22H26N4S
reactant | cesium carbonate | 0.158 mmol, 51 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]acetate | 37 mg | C1(CCC1)N(CC(=O)OC)CC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C25H30N4O2S
